US08080565B2
Step B—Preparation of (1-Benzylpiperidin-4-yl)-(7-bromoheptyl)carbamic Acid tert-Butyl Ester
To a chilled solution of 1-benzyl-4-tert-butoxycarbonylaminopiperidine (6.8 g, 23.4 mmol) in DMF (200 mL) was added sodium hydride (0.6 g, 60% dispersion in mineral oil). After 30 min, 1,7-dibromoheptane was added (12 mL) and the reaction mixture was stirred for 24 h. Another portion of sodium hydride (0.6 g, 60% dispersion in mineral oil) was added and the reaction mixture was stirred for 18 h. The DMF was removed in vacuo and the residue extracted with dichloromethane and 1 N HCl (3×). The organic phase was washed with saturated brine, dried over sodium sulfate, filtered and concentrated to give 18.5 g of the crude intermediate. This crude product was purified by silica gel column chromatography, eluting with 1% methanol in dichloromethane. The appropriate fractions were combined and concentrated to afford 4.7 g of the title intermediate (85% pure by HPLC, MS and NMR), which was used without further purification.

reactant | 1-benzyl-4-tert-butoxycarbonylaminopiperidine | 23.4 mmol, 6.8 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)OC(C)(C)C | C17H26N2O2
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 1,7-dibromoheptane | BrCCCCCCCBr | C7H14Br2
reactant | sodium hydride | 0.6 g | [H-].[Na+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | (1-Benzylpiperidin-4-yl)-(7-bromoheptyl)carbamic Acid tert-Butyl Ester | 4.7 g, 85% | C(C)(C)(C)OC(N(CCCCCCCBr)C1CCN(CC1)CC1=CC=CC=C1)=O | C24H39BrN2O2
